US06995171B2
E. 2-Methyl-1H-indol-5-ol
To a solution of 5-methoxy-2-methyl-1H-indole (5 g, 31 mmol) in methylene chloride (100 mL) at −78° C., was slowly added a solution of BBr3 in CH2Cl2 (1.0 M, 93 mL, 93 mmol). The reaction mixture was stirred at −78° C. for 4 hours and slowly warmed to room temperature. The reaction mixture was stirred at room temperature overnight, and cooled to 0° C. The reaction was quenched carefully with water at 0° C. The aqueous layer was made basic by adding saturated sodium bicarbonate solution, and then extracted with methylene chloride (3×50 mL). The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure. The crude product was purified by flash chromatography on silica gel eluting with EtOAc/Hexanes (25:75) to afford the title compound as a yellow solid (3.0 g, 60%).

reactant | 5-methoxy-2-methyl-1H-indole | 31 mmol, 5 g | COC=1C=C2C=C(NC2=CC1)C | C10H11NO
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 93 mmol, 1.0 M, 93 mL | C(Cl)Cl | CH2Cl2
product | 2-Methyl-1H-indol-5-ol | 3.0 g, 60% | CC=1NC2=CC=C(C=C2C1)O | C9H9NO
